datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[NH+](C)Cc1cc(F)ccc1[O:21][H:20].O=C(c1ccc(I)o1)[O-:10]>>C[NH+](C)Cc1cc(F)ccc1[O-:21].O=C(c1ccc(I)o1)[O:10][H:20] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])=C1.ClCC[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=C1.ClCC[O:10][H:20] 10=20;20,21=21",
"Brc1ccc(CC[NH2:10])cc1.CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Brc1ccc(CC[NH2+:10][H:20])cc1.CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC1(C)CCC(C(=O)[O:21][H:20])=[N+]1[O-].Cc1c2[nH]c3cc(O)ccc3c2cc[n:10]1>>CC1(C)CCC(C(=O)[O-:21])=[N+]1[O-].Cc1c2[nH]c3cc(O)ccc3c2cc[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].OCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OCC[NH2+:10][H:20] 10=20;20,21=21",
"NCCCC[NH2:10].Nc1ccc(S(=O)(=O)[N:21](c2ccc(O)cn2)[H:20])cc1>>NCCCC[NH2+:10][H:20].Nc1ccc(S(=O)(=O)[N-:21]c2ccc(O)cn2)cc1 10=20;20,21=21",
"O=C([O-])c1cc([N+](=O)[O-])ccc1[O-:10].Oc1ccccc1-c1ccccc1[O:21][H:20]>>O=C([O-])c1cc([N+](=O)[O-])ccc1[O:10][H:20].Oc1ccccc1-c1ccccc1[O-:21] 10=20;20,21=21",
"CC(C)(C)C(=O)N[O:21][H:20].C[N:10]1CC=CC1c1cccnc1>>CC(C)(C)C(=O)N[O-:21].C[N+:10]1([H:20])CC=CC1c1cccnc1 10=20;20,21=21",
"CN/C(C)=[S+:21]\[H:20].N#CC1C[N:10]2CCC1CC2>>CNC(C)=[S:21].N#CC1C[N+:10]2([H:20])CCC1CC2 10=20;20,21=21",
"COc1ccc([N:10](C)C)cc1.N=C(N)Nc1nc(N)nc(N/C(N)=[NH+:21]/[H:20])n1>>COc1ccc([N+:10](C)(C)[H:20])cc1.N=C(N)Nc1nc(N)nc(NC(N)=[NH:21])n1 10=20;20,21=21",
"CC[N+:21](CC)(CC(=O)N(C)c1ccccc1C)[H:20].c1ccc2cc([S-:10])ncc2c1>>CC[N:21](CC)CC(=O)N(C)c1ccccc1C.c1ccc2cc([S:10][H:20])ncc2c1 10=20;20,21=21",
"CC(C)([OH2+])[O:21][H:20].c1cncc(-c2nc3ccccc3[n-:10]2)c1>>CC(C)([OH2+])[O-:21].c1cncc(-c2nc3ccccc3[n:10]2[H:20])c1 10=20;20,21=21",
"Cc1ccc(S(=O)(c2ccccc2)=[NH+:21][H:20])cc1.c1ccc(-c2c[n-:10]cn2)cc1>>Cc1ccc(S(=O)(c2ccccc2)=[NH:21])cc1.c1ccc(-c2c[n:10]([H:20])cn2)cc1 10=20;20,21=21",
"CNc1nc(C)[n+:21]([H:20])c2c1cnn2C.Cc1cccc2cc3ccccc3[n:10]c12>>CNc1nc(C)[n:21]c2c1cnn2C.Cc1cccc2cc3ccccc3[n+:10]([H:20])c12 10=20;20,21=21",
"C/C=C/C=C/C(=O)[O-:10].O=C1C=CC=CC=C1[O:21][H:20]>>C/C=C/C=C/C(=O)[O:10][H:20].O=C1C=CC=CC=C1[O-:21] 10=20;20,21=21",
"C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2+:21][H:20])[C@@H](C)[C@H]1N.Nc1cccc2cccc([NH2:10])c12>>C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2:21])[C@@H](C)[C@H]1N.Nc1cccc2cccc([NH2+:10][H:20])c12 10=20;20,21=21",
"C#CCC[NH2:10].CCCCC(CC)CNc1nc[n+:21]([H:20])c2[nH]ncc12>>C#CCC[NH2+:10][H:20].CCCCC(CC)CNc1nc[n:21]c2[nH]ncc12 10=20;20,21=21",
"CCCc1ccc(C)n[n+:21]1[H:20].N#C[C@H]1CCCC[C@@H]1C(=O)[O-:10]>>CCCc1ccc(C)n[n:21]1.N#C[C@H]1CCCC[C@@H]1C(=O)[O:10][H:20] 10=20;20,21=21",
"NNC(=O)C(Cc1ccccc1)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NNC(=O)C(Cc1ccccc1)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Clc1ccc(C[NH2:10])cc1.Nc1nccc2c1[nH+]cn2CCOCP(=O)(O)[O:21][H:20]>>Clc1ccc(C[NH2+:10][H:20])cc1.Nc1nccc2c1[nH+]cn2CCOCP(=O)(O)[O-:21] 10=20;20,21=21",
"CC(C)(C)[NH2:10].O=S(=O)(c1ccccc1)[N:21](Br)[H:20]>>CC(C)(C)[NH2+:10][H:20].O=S(=O)(c1ccccc1)[N-:21]Br 10=20;20,21=21",
"CC[NH+](CC)CC(C)Nc1c2cc(OC)ccc2[n+:21]([H:20])c2cc(Cl)ccc12.COc1cc(C(N)=O)ccc1-c1nc2c(cn(C)[n:10]2)[nH]1>>CC[NH+](CC)CC(C)Nc1c2cc(OC)ccc2[n:21]c2cc(Cl)ccc12.COc1cc(C(N)=O)ccc1-c1nc2c(cn(C)[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"C(C[NH2+]CCc1nnn[n:21]1[H:20])[NH2+]CCc1nnn[nH]1.CCC#CC#CC(=O)[O-:10]>>C(C[NH2+]CCc1nnn[n-:21]1)[NH2+]CCc1nnn[nH]1.CCC#CC#CC(=O)[O:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)[C@H]1CCC[C@@H]1N(C)C.N#C[C@H]1CCCC[C@@H]1C(=O)[O:21][H:20]>>CC[N+:10](CC)([C@H]1CCC[C@@H]1N(C)C)[H:20].N#C[C@H]1CCCC[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"SCC[N+:21](Cc1ccccc1)(Cc1ccccc1)[H:20].[O-]c1ccc(/C=N/[O-:10])cc1>>SCC[N:21](Cc1ccccc1)Cc1ccccc1.[O-]c1ccc(/C=N/[O:10][H:20])cc1 10=20;20,21=21",
"CC(C)(C)[C@]1(O)CC[N+:21]2([H:20])C[C@H]3c4ccccc4CCc4cccc(c43)[C@@H]2C1.COc1cc(S(C)=O)ccc1-c1nc2c[n:10]ccc2[nH]1>>CC(C)(C)[C@]1(O)CC[N:21]2C[C@H]3c4ccccc4CCc4cccc(c43)[C@@H]2C1.COc1cc(S(C)=O)ccc1-c1nc2c[n+:10]([H:20])ccc2[nH]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NC(=S)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NC(=S)C[NH2+:10][H:20] 10=20;20,21=21",
"CCN[N:10](C)CC.Cc1ncc(C)[n+:21]([H:20])c1C>>CCN[N+:10](C)(CC)[H:20].Cc1ncc(C)[n:21]c1C 10=20;20,21=21",
"CC(C)(C)CCCC(=O)[O:21][H:20].c1cc(N2CCCC2)c2c([N:10]3CCCC3)cccc2c1>>CC(C)(C)CCCC(=O)[O-:21].c1cc(N2CCCC2)c2c([N+:10]3([H:20])CCCC3)cccc2c1 10=20;20,21=21",
"COc1ccc(S(=O)(=O)CC[N+:21]2([H:20])CCOCC2)c(OC)c1OC.[O-][n+]1ccc([O-:10])cc1>>COc1ccc(S(=O)(=O)CC[N:21]2CCOCC2)c(OC)c1OC.[O-][n+]1ccc([O:10][H:20])cc1 10=20;20,21=21",
"COC(=O)C[NH2+:21][H:20].Cc1nn(C)c2c1C(c1ccccc1F)=[N:10]CC(=O)N2C>>COC(=O)C[NH2:21].Cc1nn(C)c2c1C(c1ccccc1F)=[N+:10]([H:20])CC(=O)N2C 10=20;20,21=21",
"COc1ccc(/N=N/c2c(N)[nH][n+:21]([H:20])c2N)cc1.NC(CC/C(N)=[N:10]\O)=[NH+]O>>COc1ccc(/N=N/c2c(N)[nH][n:21]c2N)cc1.NC(CC/C(N)=[N+:10](\O)[H:20])=[NH+]O 10=20;20,21=21",
